US06410585B1
5-[(2S)-3-{[3-(Benzylanilino)-2-hydroxypropyl]amino}-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-oxopropyl]-2-(carboxymethoxy)benzoic Acid
Synthesis was performed from (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid (85 mg, 0.15 mmol) and 1-amino-3-(N-benzylanilino)-2-propanol (47 mg, 0.18 mmol) according to Method C with HPLC purification to the title compound (23 mg) as a diasteromeric mixture. IR (KBr) 3414, 1654 cm−1; HRMS m/z 768.3382 (calc. of monoisotopic mass for C42H48N4O10 gives 768.3370).

reactant | (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid | 0.15 mmol, 85 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OCC(=O)OC)C(=O)OC)CC1=CC=CC=C1 | C28H34N2O10
reactant | 1-amino-3-(N-benzylanilino)-2-propanol | 0.18 mmol, 47 mg | NCC(CN(C1=CC=CC=C1)CC1=CC=CC=C1)O | C16H20N2O
product | 5-[(2S)-3-{[3-(Benzylanilino)-2-hydroxypropyl]amino}-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-oxopropyl]-2-(carboxymethoxy)benzoic Acid | C(C1=CC=CC=C1)N(C1=CC=CC=C1)CC(CNC([C@H](CC=1C=CC(=C(C(=O)O)C1)OCC(=O)O)NC([C@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O)=O)O | C42H48N4O10
